US05679683
A suspension of 2-amino-4-oxo-3H-indolo[2,3-d]pyrimidine (490 mg, 2.5 mmol) and phosphoryl chloride (7 ml, 75 mmol) in dioxane (13 ml) is heated under reflux for 4 hr, then concentrated in vacuo. The residue is triturated with ethanol, filtered, and the solids washed with 10:1 Ethanol:Ethyl Acetate to give 170 mg (27%) 2-amino-4-chloroindolo[2,3-d]pyrimidine hydrochloride as a grey solid, mp>250 C.

reactant | 2-amino-4-oxo-3H-indolo[2,3-d]pyrimidine | 2.5 mmol, 490 mg | NC1NC(C=2C(=N1)N=C1C=CC=CC12)=O | C10H8N4O
reactant | phosphoryl chloride | 75 mmol, 7 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | dioxane | 13 ml | O1CCOCC1 | C4H8O2
product | 2-amino-4-chloroindolo[2,3-d]pyrimidine hydrochloride | 170 mg, 27% | Cl.NC=1N=C(C2=C(N1)NC1=CC=CC=C12)Cl | InChI=1S/C10H7ClN4.ClH/c11-8-7-5-3-1-2-4-6(5)13-9(7)15-10(12)14-8;/h1-4H,(H3,12,13,14,15);1H
